US04252809
Preparation of 2,4,7-Triamino-6-[4-(β-dimethylamino-ethoxy)phenyl]-pteridine
0.03 mol of metallic sodium is dissolved with stirring in 150 ml of 2-ethoxyethanol. 3.1 g (0.013 mol) of 4-(β-dimethylamino-ethoxy)-phenyl acetonitrile in the form of the hydrochloride are added with stirring followed by 1.45 g (0.01 mol) of 2,4,6-triamino-5-nitroso-pyrimidine. After stirring for 48 hours at 60°-65° C. excluding access of moisture, the mixture is centrifuged when still hot. Petroleum ether is added to the solution obtained until it becomes cloudy. The solution is kept refrigerated to complete precipitation. The precipitate is filtered off. It can be recrystallized from n-butanol.

reactant | sodium | 0.03 mol | [Na] | Na
reactant | 4-(β-dimethylamino-ethoxy)-phenyl acetonitrile | 0.013 mol, 3.1 g | CN(CCOC1=CC=C(C=C1)CC#N)C | C12H16N2O
reactant | hydrochloride | Cl | ClH
reactant | 2,4,6-triamino-5-nitroso-pyrimidine | 0.01 mol, 1.45 g | NC1=NC(=C(C(=N1)N)N=O)N | C4H6N6O
solvent | 2-ethoxyethanol | 150 ml | C(C)OCCO | C4H10O2
product | 2,4,7-Triamino-6-[4-(β-dimethylamino-ethoxy)phenyl]-pteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C1=CC=C(C=C1)OCCN(C)C)N | C16H20N8O
